Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Chest Pain
 
Major Surgical or Invasive Procedure:
___ Cardiovascular Cardiac Cath
No angiographically apparent coronary artery disease.

 
History of Present Illness:
Mr. ___ is a ___ with hx of CLL, asthma, allergic 
rhinitis,
latent TB s/p INH who presented with chest pain, back pain, EKG
changes, and newly reduced EF, found to have clean coronaries.

He was in his usual state of health developed mid-back pain 
which
awakened him from sleep 3 nights ago. He had this a few more
times at night and then the morning of presentation developed
chest pain 9 out of 10 at 9am radiating to his back. Pain is
sharp, positional, and lasts for ___ minutes. He denies
significant shortness of breath or change in exertional status
recently. He exercises frequently. He exercised two days ago 
with
jumping jacks, push up, and weight lifting and believes he may
have been more short of breath than usual. He notes some 
abnormal
fluttering in his heart for ___ days. He also notes some mild
dyspnea on exertion 3 weeks ago. No ___ swelling, PND, orthopnea,
or lightheadedness. Weight is stable between 187-189 lbs.

In the ED,
- Initial vitals:
98.6 66 172/98 16 100% RA 

- EKG: STE in V1-V3, deep TWIs in V4, with 1 mm STD in inferior
leads  

- Labs/studies notable for:  
Trops x2 negative, CKMB 2 

WBC 4.2, H/H 13.7/43.2, Plt 185 
Na 139, K 4.6, Cl 107, HCO3 19, BUN 16, Cr 1.0
ALT 14 AST 20 AP 60 Tbili 0.3
U/A unremarkable and urine culture no growth final 

- Patient was given:  
___ 18:20 IV Heparin 4000 UNIT
___ 18:20 IV Heparin  Started 850 units/hr
___ 18:20 PO Aspirin 324 mg  
___ 22:02 PO/NG Captopril 6.25 mg  
___ 07:51 PO/NG Captopril 6.25 mg 
___ 10:22 PO Aspirin 324 mg   
___ 14:24 PO/NG Captopril 6.25 mg 

- Vitals on transfer:  
57 140/103 21 100% RA 
 
He was found to have newly reduced EF on TTE. He was taken to
cath lab and found to have no angiographically significant
coronary disease.

 
Past Medical History:
1. CARDIAC RISK FACTORS  
- None
2. CARDIAC HISTORY  
- CABG: None  
- PERCUTANEOUS CORONARY INTERVENTIONS: None  
- PACING/ICD: None  
3. OTHER PAST MEDICAL HISTORY  
- Allergic rhinitis
- CLL (clinical trial ___ ATG, TLI, clofarabine reduced
intensity), initially diagnosed CLL stage III in ___, s/p six 
cycles of FCR, relapsed ___ flu like sx, abd pain, CT showing 
massively enlarged mesenteric and retroperitoneal lymph nodes, 
BM bx w/52% aspirate differential lymphs, tx with PCR
- Latent TB s/p INH
- H/O strongyloides s/p ivermectin
- Asthma 
- New HFrEF, non-ischemic cardiomyopathy (diagnosed on this 
admission ___

ONCOLOGIC HISTORY:
first diagnosed in ___ with CLL/SLL, status post six
cycles of fludarabine, Cytoxan, and Rituxan, with remission but
recurred in ___, now status post six cycles of
pentostatin, Cytoxan, and rituximab and two cycles of Rituxan 
and
bendamustine.
bmt -conditioned with mini allo(ATG/TLI Clorfarabinept in PR at
transplant
___ not in CR aeb CT scan ___ not in CR aeb CT scan ___
___ ___ not in CR aeb CT scan ___ disease)
___ ___ in CR based on BM BX ___
1.2cm neck 
node that is <2cm
___ year eval ___: Still in CR, but are watching flow which
shows findings 
consistent with involvement by an atypical B cell population. MD
unsure if 
this represents his CLL or not. Cytogenetic report needed to
correlate and 
patient has refused a bone marrow biopsy.
___ year eval ___: Still considered in CR, labs WNL, although
___ is a little 

 
Social History:
___
Family History:
- Brother: heart murmur
- Father died of unclear throat problem
- Mother with hypertension
- No family history of sudden death, MI or strokes
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
================================
VITALS: Reviewed in eFlowsheets
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.
HEENT: NCAT. Sclera anicteric. Conjunctiva pink, no pallor or
cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP not elevated.
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts, or rubs.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits. Extremities cool.
PULSES: Distal pulses palpable and symmetric

DISCHARGE PHYSICAL EXAMINATION:
===============================
97.5 131/80 65 18 97 ra 
GENERAL: Well-developed, well-nourished. NAD. Mood, affect
appropriate.
HEENT: NCAT. Sclera anicteric. Conjunctiva pink, no pallor or
cyanosis of the oral mucosa. No xanthelasma.  
NECK: JVP not elevated.
CARDIAC: RRR, normal S1, S2. No murmurs/rubs/gallops. No 
thrills,
lifts, or rubs.
LUNGS: No chest wall deformities, scoliosis or kyphosis. Resp
were unlabored, no accessory muscle use. No crackles, wheezes or
rhonchi.  
ABDOMEN: Soft, NTND. No HSM or tenderness.  
EXTREMITIES: No c/c/e. No femoral bruits. Extremities cool.
PULSES: Distal pulses palpable and symmetric
 
Pertinent Results:
ADMISSION/IMPORTANT LABS:
=========================
___ 06:40PM BLOOD WBC-4.2 RBC-4.47* Hgb-13.7 Hct-43.2 
MCV-97 MCH-30.6 MCHC-31.7* RDW-12.3 RDWSD-43.8 Plt ___
___ 06:40PM BLOOD Neuts-28.9* Lymphs-57.8* Monos-9.5 
Eos-2.8 Baso-0.5 Im ___ AbsNeut-1.22* AbsLymp-2.44 
AbsMono-0.40 AbsEos-0.12 AbsBaso-0.02
___ 06:40PM BLOOD ___ PTT-44.4* ___
___ 06:40PM BLOOD Glucose-80 UreaN-16 Creat-1.0 Na-139 
K-4.6 Cl-107 HCO3-19* AnGap-13
___ 06:40PM BLOOD ALT-14 AST-20 CK(CPK)-205 AlkPhos-60 
TotBili-0.3
___ 06:40PM BLOOD cTropnT-<0.01
___ 11:28AM BLOOD cTropnT-<0.01
___ 06:40PM BLOOD Albumin-3.9 Calcium-9.6 Phos-4.1 Mg-2.1
___ 07:18AM BLOOD calTIBC-286 Ferritn-77 TRF-220
___ 07:18AM BLOOD %HbA1c-5.4 eAG-108
___ 07:18AM BLOOD Triglyc-59 HDL-52 CHOL/HD-3.1 LDLcalc-95
___ 11:28AM BLOOD TSH-3.1
___ 07:18AM BLOOD TSH-5.3*
___ 01:43PM BLOOD PEP-AWAITING F IgG-PND IgA-PND IgM-PND 
IFE-PND
___ 06:40PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 07:18AM BLOOD HIV Ab-NEG
___ 07:07PM BLOOD Lactate-1.9

IMPORTANT STUDIES:
==================
___ Cardiovascular Transthoracic Echo Report 
The left atrial volume index is normal. There is no evidence for 
an atrial septal defect by 2D/color Doppler.
The estimated right atrial pressure is ___ mmHg. There is mild 
symmetric left ventricular hypertrophy with a
normal cavity size. There is moderate global left ventricular 
hypokinesis. Quantitative biplane left
ventricular ejection fraction is 35 %. Left ventricular cardiac 
index is depressed (less than 2.0 L/min/m2).
There is no resting left ventricular outflow tract gradient. No 
ventricular septal defect is seen. Mildly dilated
right ventricular cavity with normal free wall motion. Tricuspid 
annular plane systolic excursion (TAPSE) is
normal. The aortic sinus diameter is normal for gender with 
mildly dilated ascending aorta. The aortic arch
diameter is normal with a mildly dilated descending aorta. The 
aortic valve leaflets (3) appear structurally
normal. There is no aortic valve stenosis. There is a centrally 
directed jet of mild [1+] aortic regurgitation. The
mitral valve leaflets appear structurally normal with no mitral 
valve prolapse. There is moderate [2+] mitral
regurgitation. The pulmonic valve leaflets are normal. The 
tricuspid valve leaflets appear structurally normal.
There is mild [1+] tricuspid regurgitation. The estimated 
pulmonary artery systolic pressure is normal. There
is no pericardial effusion.
IMPRESSION: Moderate global left ventricular hypokinesis. Mildly 
dilated right ventricle with
normal systolic function. Moderate mitral regurgitation.
Compared with the prior TTE (images reviewed) of ___, the 
findings are new.

___ Cardiovascular ___ MD ___ 
No angiographically apparent coronary artery disease.

DISCHARGE LABS:
==================
___ 07:18AM BLOOD WBC-3.9* RBC-4.45* Hgb-13.5* Hct-41.2 
MCV-93 MCH-30.3 MCHC-32.8 RDW-12.2 RDWSD-41.2 Plt ___
___ 07:18AM BLOOD ___ PTT-34.1 ___
___ 07:18AM BLOOD Glucose-88 UreaN-15 Creat-0.9 Na-140 
K-4.1 Cl-103 HCO3-24 AnGap-13
___ 07:18AM BLOOD Calcium-9.2 Phos-4.3 Mg-2.0 Iron-118 
Cholest-159
 
Brief Hospital Course:
Mr. ___ is a ___ year old gentleman with hx of CLL, asthma, 
allergic rhinitis, latent TB s/p INH who presented with chest 
pain, back pain, EKG changes, and newly reduced EF, found to 
have clean coronaries.

TRANSITIONAL ISSUES:
====================
NEW MEDICATIONS: CARVedilol 3.125 mg PO/NG BID, Valsartan 80 mg 
PO/NG BID

[] Follow up SPEP and free kappa/lambda studies (pending at 
discharge).
[] Please repeat TFTs as an outpatient (had one normal TSH and 
one elevated TSH here).
[] Consider starting spironolactone as an outpatient.
[] Consider cardiac MRI for further workup as an outpatient.
[] Requires PCP, ___, and HF follow up.

# CODE: Full code (attempt resuscitation) 
# CONTACT: HCP: Brother ___, ___

# CORONARIES: No angiographically apparent coronary artery 
disease.
# PUMP: EF 35%
# RHYTHM: Sinus bradycardia

#) NEW SYSTOLIC HEART FAILURE, NON-ISCHEMIC
Presented with back pain and EKG changes concerning for ischemia 
(anterior ST elevations and Wellens T waves). Coronary angiogram 
with clean coronaries. Potentially secondary to hypertensive 
cardiomyopathy given BP in 140s-150s for a long period of time. 
He does have history of back pain, so could be suggestive of 
myocarditis, but trops negative and no focal WMA on echo. 
Patient also has history of chemotherapy, but not 
anthracyclines. Cytoxan and rituxin could cause cardiomyopathy 
(less common). Has history of strongyloides which has case 
reports of causing HF. HIV negative. A1c 5.4, lipids normal. Can 
consider cardiac MRI as an outpatient. Should have TSH repeated 
as it was initially normal, but elevated to 5.3 on am labs. No 
diuresis required. Discharged on lisinopril and carvedilol.

#) BACK PAIN, RESOLVED
Potentially MSK given positional and intermittent nature. 
Resolved on admission. CXR negative and euvolemic on exam, so 
unlikely to be ___ HF or other cardiopulmonary etiology. Not 
tachycardic or hypoxic. Consider further workup if recurs.

#) CLL
In remission. Previously seen by Dr. ___. Per patient, 
plan is to change to different provider as current provider 
left.
 
Medications on Admission:
NONE
 
Discharge Medications:
1.  CARVedilol 3.125 mg PO BID 
START THIS MEDICATION ___.  
2.  Valsartan 80 mg PO BID 
START THIS MEDICATION ___.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: New systolic heart failure

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were at ___ because you were having chest and 
back pain.

WHILE YOU WERE HERE:
- You had a coronary angiogram. This showed that you do not have 
any heart blockages. Your pain was not from a heart attack.
- You had an ultrasound of your heart that showed your heart was 
not pumping well. This is called heart failure.
- We are not sure why you have the heart failure. You had some 
tests here and will have more tests as an outpatient.

WHEN YOU GO HOME:
- Please do not take in more than 2 grams of salt and 2 liters 
of fluid in 24 hours. Read the labels of food to help you with 
this.
- Please weigh yourself daily and call the doctor if you weight 
goes up by more than 5lbs in 1 week or 3lbs in 1 day.
- Please take your medications, listed below. Please start the 
valsartan on ___. You can start taking the carvedilol on 
___. Both medications are twice a day.
- Please go to your follow up appointments, listed below.

It was a pleasure taking care of you and we wish you good 
health.

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___